US04970323
Using the same apparatus as described in Example 1, 34.7 g (0.354 mole) of maleic anhydride was dissolved in 260 g of toluene and 34.7 g (0.350 mole) of cyclohexylamine was added to the resulting solution over 0.5 hour at 10°-50° C. After stirring the reaction mixture for 0.5 hour at the same temperature, 1.27 g (0.0175 mole) of dimethylforamide was added and 38.1 g (0.385 mole) of phosgene was then blown into the reaction mixture over 4 hours at 35°-40° C. After raising the temperature to 70°-75° C., nitrogen gas was blown through the reaction mixture for 2 hours to carry out phosgene degassing and water was added to wash the reaction mixture. The reaction mixture was dried. Solvent was removed and the residue was vacuum distilled at 138°-140° C., 1-2 mmHg. The N-Cyclohexylmonochlorosuccinimide thus obtained (72.7 g, 96.6% of theoretical yield) had a melting point of 63°-64° C.

reactant | maleic anhydride | 0.354 mole, 34.7 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | cyclohexylamine | 0.350 mole, 34.7 g | C1(CCCCC1)N | C6H13N
reactant | dimethylforamide | 0.0175 mole, 1.27 g | CN(C=O)C | C3H7NO
reactant | phosgene | 0.385 mole, 38.1 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 260 g | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-Cyclohexylmonochlorosuccinimide | C1(CCCCC1)N1C(C(CC1=O)Cl)=O | C10H14ClNO2
